US05552155
This compound was prepared according to the method of Levantis and Silvius (1990). Oleyl chloride was prepared by slowly adding 3 ml (35 mmol) of oxalyl chloride to 1.0 g (3.5 mmol) oleic acid dissolved in 10 ml benzene without stirring at room temperature for 1 hour. After removal of solvent and excess oxalyl chloride under vacuum, the acid chloride was dissolved in 5 ml diethyl ether, and a further 5 ml of ether containing 0.20 g (1.7 mmol) of 3,N,-dimethylamino-1,2-propanediol and 0.15 g pyridine was added. The resulting mixture was stirred at room temperature for 30 minutes before quenching with 1 ml methanol. Solvents were removed under vacuum. The crude product was dissolved in 50 ml hexane and washed with 2×25 ml 0.1M sodium chloride. Drying over anhydrous sodium sulfate, and removal of hexane under vacuum gave a slightly yellow oil. Column chromatography on silica gel (70-230 mesh), wherein elution was with ethyl acetate, gave 0.92 g (84%) of pure product (TLC, Rf=0.5). 200 MHz 1H-NMR (CDCl3), δ ppm from TNS (J-coupling, integration): 5.3 (dd, 4H), 5.1 (m, 1H), 4.0 (dd, 1 h), 2.4 (dd, 2H), 2.2 (s, 6H), 2.0-0.8 (m, 62H). This procedure was also used to prepare the deuterated analog rac-1-N,N-dimethylamino-2,3-bis(9,10-dideuteriooleoyl)propane (AL-1-d4) and ±-1,2-didecanoyl-1-N,N,-dimethyl-aminopropane (AL-6).

reactant | oxalyl chloride | 35 mmol, 3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oleic acid | 3.5 mmol, 1.0 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | ether | 1.7 mmol, 5 ml, 0.20 g | CCOCC | C4H10O
reactant | pyridine | 0.15 g | N1=CC=CC=C1 | C5H5N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | Oleyl chloride | C(CCCCCCC\C=C/CCCCCCCC)Cl | C18H35Cl
